US07002016B2
Sodium hydroxide, 50% aqueous solution (1.09 Kg, 13.6 mol, 1.05 eq) was added to a stirred mixture of 1-(phenylglyoxylyl)piperidine p-toluenesulfonylhydrazone (5.00 Kg, 13.0 mol, 1 eq), phase transfer catalyst (PTC) trioctylmethylammonium chloride (aliquat 336) (60.0 g, 0.15 mol, 0.01 eq) and toluene (50 L) at 20–30° C. The mixture was heated to reflux and monitored by both TLC and the color of the reaction mixture. The originally yellow solution in 10 minutes turned bright orange as the diazo compound was formed. After 6.5 hours at reflux, the solution re-assumed a yellow color and TLC indicated that no starting material was present. Crushed ice (20 Kg) was added to the reaction mixture (temperature of the mixture was dropped to 15° C.). The organic layer was separated, washed with brine (15 L) and evaporated under reduced pressure to give 2.69 Kg (quantitative yield) of 7-phenyl-1-azabicyclo [4.2.0]octan-8-one with R*R*/S*R* 3.3:1 by GC.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 1-(phenylglyoxylyl)piperidine p-toluenesulfonylhydrazone | 13.0 mol, 5.00 Kg, 1 eq | C1(=CC=C(C=C1)S(=O)(=O)NN=C(C(=O)N1CCCCC1)C1=CC=CC=C1)C | C20H23N3O3S
catalyst | trioctylmethylammonium chloride | 0.15 mol, 60.0 g, 0.01 eq | [Cl-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
solvent | toluene | 50 L | C1(=CC=CC=C1)C | C7H8
product | 7-phenyl-1-azabicyclo [4.2.0]octan-8-one | 2.69 Kg, quantitative yield | C1(=CC=CC=C1)C1C2CCCCN2C1=O | C13H15NO
